US06451821B1
The process is performed as in Example 1, starting with 5.9 g of benzyl (5R)-5-{[(tert-butylamino)carbothioyl]amino}-6-hydroxyhexylcarbamate in 40 cm3 of aqueous 6N hydrochloric acid at a temperature in the region of 100° C. for 3 hours. After concentration of the reaction medium under reduced pressure (5 kPa) at a temperature in the region of 50° C., the residue obtained is taken up in ethanol and then concentrated again under the above conditions. The paste obtained is crystallized by trituration from an ethanol/methanol mixture (8/2 by volume). The crystals are filtered off, washed with acetonitrile and air-dried. 1.3 g of (+)-(4R)-4-(4-aminobutyl)-4,5-dihydro-1,3-thiazol-2-ylamine dihydrochloride are obtained in the form of a white solid melting at 188° C. (αD20=+16.2±0.7 at a concentration of 0.5% in methanol).

reactant | benzyl (5R)-5-{[(tert-butylamino)carbothioyl]amino}-6-hydroxyhexylcarbamate | 5.9 g | C(C)(C)(C)NC(=S)N[C@H](CCCCNC(OCC1=CC=CC=C1)=O)CO | C19H31N3O3S
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | (+)-(4R)-4-(4-aminobutyl)-4,5-dihydro-1,3-thiazol-2-ylamine dihydrochloride | 1.3 g | Cl.Cl.NCCCC[C@H]1N=C(SC1)N | InChI=1S/C7H15N3S.2ClH/c8-4-2-1-3-6-5-11-7(9)10-6;;/h6H,1-5,8H2,(H2,9,10);2*1H/t6-;;/m1../s1
